US07388103B2
Methyl 1-benzyl-2-oxocyclopentane carboxylate
29.0 grams of anhydrous potassium carbonate and 132 ml of acetone were mixed, then with stirring, to the resulting mixture was dropwise added a solution of 13.0 ml of methyl 2-oxocyclopentane carboxylate in 66 ml of acetone. After stirring at room temperature for 30 minutes, 13.7 ml of benzyl bromide was dropwise added thereto, and the reaction was allowed to continue under reflux for 6 hours. Then the reaction mixture was cooled to room temperature, filtered, and concentrated, and 150 ml of toluene was added thereto. The resulting solution was washed with water (3×150 ml), dried over anhydrous sodium sulfate, concentrated, and distilled under reduced pressure. 13.4 g of colorless liquid as a distillate cut of 161-162° C./4.8 mmHg was collected. Yield: 55.1%.

reactant | potassium carbonate | 29.0 grams | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-oxocyclopentane carboxylate | 13.0 ml | O=C1C(CCC1)C(=O)OC | C7H10O3
reactant | benzyl bromide | 13.7 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 66 ml | CC(=O)C | C3H6O
solvent | acetone | 132 ml | CC(=O)C | C3H6O
product | Methyl 1-benzyl-2-oxocyclopentane carboxylate | Yield: 55.1% | C(C1=CC=CC=C1)C1(C(CCC1)=O)C(=O)OC | C14H16O3
